Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-3.5550197321900003
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.3335666941700002
[C:3](=[C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.09580865373
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3][H:4])[C@:8]([O:7][C:5][H:6])([H:9])[C:10]([H:11])([H:12])[H:13],4.4763879014
[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.37718449878
[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])[H:11],4.68043454998
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:12][H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.90947167852
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.1696679858
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:9][C:10]([H:11])[H:12].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.75196222993
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.94836808021
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:10](/[O:9][O:8])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[c:7]1[o:8][o:9][c:10]1[H:11],-2.28416545348
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1[H:7],-0.5442080393800001
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],7.50549592522
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.54056834773
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.6494973903600005
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.27210553
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:7]([H:8])#[C:9][H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.3188217734299998
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],3.44975809623
[C:8]([H:9])[H:10].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.71036473892
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6],2.37787951051
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-2.97321178148
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.48463249527
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.14222373815
[H:10].[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],-4.84387755104
[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],-0.769695301831
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](#[C:4][H:5])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:6]([H:7])[H:8],1.91177903154
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[O:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7],-3.16966155412
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.03616251626
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.54563736739
